US05981776
Methyl 3-methyl-3-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-2H-1-benzofuran-6-carboxylate
A mixture of tributylamine (0.5 ml, 2.1 mmol), palladium diacetate (0.03 g, 0.2 mmol), formic acid (0.06 ml, 1.3 mmol) and methyl 4-iodo-3-[2-[5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl]-1-propenyloxy]benzoate (0.65 g, 1.3 mmol) in acetonitrile (10 ml) is heated at 60° C. for 4 h. The reaction medium is concentrated on a rotary evaporator under vacuum at 40° C. 20 ml of water and 20 ml of ethyl ether are added. After separation of the phases by settling, the organic phase is washed twice with 20 ml of water, dried over magnesium sulphate and concentrated on a rotary evaporator under vacuum at 40° C.

reactant | tributylamine | 2.1 mmol, 0.5 ml | C(CCC)N(CCCC)CCCC | C12H27N
reactant | formic acid | 1.3 mmol, 0.06 ml | C(=O)O | CH2O2
reactant | methyl 4-iodo-3-[2-[5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl]-1-propenyloxy]benzoate | 1.3 mmol, 0.65 g | IC1=C(C=C(C(=O)OC)C=C1)OC=C(C)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C25H29IO3
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
catalyst | palladium diacetate | 0.2 mmol, 0.03 g | C(C)(=O)[O-].C(C)(=O)[O-].[Pd+2]
product | Methyl 3-methyl-3-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-2H-1-benzofuran-6-carboxylate | CC1(COC2=C1C=CC(=C2)C(=O)OC)C2=CC=1C(CCC(C1C=C2)(C)C)(C)C | C25H30O3
